US04287193
0.23 of dicyclohexylcarbodiimide were added under argon at 20° C. to a mixture of 1.002 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetic acid and 3 ml of methylene chloride and the mixture was stirred at 20°-25° C. for one hour to obtain a suspension of dicyclohexylurea. In a second flask, 0.28 ml of triethylamine were added at 20° to 25° C. to a suspension of 0.344 g of 3-[(5-methyl-1,3,4-thiadiazol-2-yl)-thiomethyl]-7-amino-ceph-3-eme-4-carboxylic acid in 2 ml of nitromethane to form a brown solution which was added over 5 minutes with stirring at 20°-25° C. to the first suspension. The mixture was rinsed with methylene chloride and was then stirred for 2 hours and was vacuum filtered to remove dicyclohexylurea (0.2 g). The filter was rinsed with methylene chloride and the filtrate and 8 ml of N hydrochloric acid were stirred. The mixture was vacuum filtered and the brown product was rinsed with water and methylene chloride to obtain 0.4 g of mainly the starting product. The filtrate was washed with distilled water until the wash water was neutral, dried and distilled to dryness under reduced pressure. The residue was added to 5 ml of ethyl acetate and the mixture was vacuum filtered at room temperature. The product was rinsed with ethyl acetate to obtain 0.32 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetic acid.

reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC(C)(OC)C | C28H27N3O4S
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | 3-[(5-methyl-1,3,4-thiadiazol-2-yl)-thiomethyl]-7-amino-ceph-3-eme-4-carboxylic acid | 0.344 g | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C11H12N4O3S3
solvent | nitromethane | 2 ml | [N+](=O)([O-])C | CH3NO2
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NO | C24H19N3O3S
